Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Norvasc / Allopurinol And Derivatives / colchicine
 
Attending: ___.
 
Chief Complaint:
Right thumb pain, left toe pain, cough
 
Major Surgical or Invasive Procedure:
___ Drainage of R thumb abscess by Ortho Hand
___ Incision of L great toe paronychia by Podiatry
 
History of Present Illness:
Ms ___ is an ___ with h/o t2DM, HTN, CKD, dCHF, and recent 
admission to ___ ___ for cellulitis c/b AoCKD, who 
presented to ___'s office with R thumb and L great toe pain, and 
new cough. Much of history is adapted from Dr. ___ 
note.  

She was recently admitted at ___ for fall and LLE cellulitis. 
She was d/c'ed on ___ to ___ with plan to finish course of 
bactrim and keflex for cellulitis. Last ___, her daughter 
noticed a mass on her R thumb, which has become more swollen, 
painful and red since that time. She also has also had 
increasing pain in her left great toe, which is the site of 
prior cellulitis. She also notes a cough for the last week, 
which she attributes to cold, but denies significant SOB. Sleeps 
on 2 pillows (unchanged). Of note, lasix 40mg daily was stopped 
last ___ admission ___ ___, and has not yet been restarted. 
Due to persistent pain, she presented to ___ yesterday 
afternoon, and was referred to the ED with concern for abscesses 
of the toe and thumb.  

In the ED, initial VS were: 97.5, 80, 163/85, 20, 99%RA. Initial 
exam was notable for swelling of right thumb and paronychia of 
her toe. Initial labs showed urate 9.7, proBNP 1828, HCT 31.9, 
WBC 6.5, Cr 2.1 (baseline 1.6-1.9), Na 132, TropT 0.02. UA was 
negative. Hand surgery was consulted who drained a scant amount 
of chalky material from right thumb not amenable to cell count, 
although culture was sent. Podiatry also came by and performed 
hallux block with abx ointment and dressing to paronychia. They 
recommended po abx x2 weeks with ___ in pod clinic 
(___). Patient was given keflex and admitted to 
medicine for further management of gout and likely CHF 
exacerbation.  

On arrival to the floor, patient is sleeping comfortably. She 
reports several weeks of pain in her right thumb and left foot. 
She denies fevers or chills. She notes her cough, but denies any 
shortness of breath, chest pain, or palpatations. She does 
endorse a mild sore throat and congestion. 

 
Past Medical History:
Hypothyroidism
Hypertension
DM II, diet controlled
Hypercholesterolemia
CRI stage III, thought secondary to hypertensive arteriolar 
nephroslerosis
Asthma
Thrombocytopenia
Hyperuricemia

 
Social History:
___
Family History:
The patient says that her mother and sister both  
have a history of diabetes. Her sister was diagnosed with  
diabetes when she was ___ years old.

 
Physical Exam:
ADMISSION EXAM: 
VS: 98.1 149/76 81 18 100%RA  
GENERAL: Pleasant elderly woman, sleeping comfortably.  
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric, dry MM  
NECK: supple, no LAD, JVD: not signficantly elevated  
LUNGS: Nonlabored on room air. Fair air movment with diffuse 
wheeze. No crackles noted.  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp. Right thumb and 
left great toe dressed in gauze.  
NEURO: awake, alert, appropriate. Somewhat poor historian, but 
overall oriented, moving all extremities equally.  

DISCHARGE EXAM: 
VS: Tm 98.6 121-140/57-66 66-70 ___ 99-100% RA FBS 112
GENERAL: Pleasant elderly woman, lying in bed, NAD  
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric, MMM  
LUNGS: Nonlabored on room air. Good air movement, slight wheeze 
L>R, no crackles
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp. Right thumb and 
left great toe dressed in gauze.   
NEURO: awake, alert, appropriate.  
 
Pertinent Results:
ADMISSION LABS
___ 04:35PM BLOOD WBC-6.5 RBC-3.29* Hgb-10.2* Hct-31.9* 
MCV-97 MCH-31.0 MCHC-31.9 RDW-14.9 Plt ___
___ 04:35PM BLOOD Neuts-41.7* ___ Monos-6.5 
Eos-9.9* Baso-0.9
___ 04:35PM BLOOD ___ PTT-28.9 ___
___ 04:35PM BLOOD ESR-49*
___ 04:35PM BLOOD Glucose-95 UreaN-34* Creat-2.1* Na-132* 
K-4.8 Cl-103 HCO3-20* AnGap-14
___ 04:35PM BLOOD Calcium-8.5 Phos-4.8* Mg-2.1 UricAcd-9.7*
___ 04:35PM BLOOD CK-MB-2 proBNP-1828*
___ 04:35PM BLOOD CRP-3.4

MICROBIOLOGY
___ 7:42 pm SWAB      RIGHT THUMB IP JOINT I&D SWAB. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

IMAGING
___ Radiology CHEST (PA & LAT)  
1. Low lung volumes with mild pulmonary vascular congestion.  
2. Stable mild cardiomegaly and mitral annular calcification.  
 
___ Radiology FINGER(S),2+VIEWS RIGHT  
Tophaceous gout involving the ___ IP joint with adjacent osseous 
erosion.  

DISCHARGE LABS
___ 06:50AM BLOOD WBC-5.5 RBC-3.20* Hgb-10.2* Hct-31.2* 
MCV-97 MCH-31.7 MCHC-32.6 RDW-15.0 Plt ___
___ 06:50AM BLOOD Glucose-100 UreaN-29* Creat-1.7* Na-134 
K-4.7 Cl-103 HCO3-21* AnGap-15
___ 06:50AM BLOOD Calcium-8.6 Phos-4.5 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a lovely ___ woman with DMII, dCHF, gout, 
and a recent admission for L toe cellulitis. She presents with 
cough, R thumb gouty abscess, and L toe paronychia. 

ACTIVE ISSUES

1. Thumb Pain/Gout: Patient's thumb pain is most likely 
secondary to gout based upon chalky appearance of fluid drained. 
Her pain was well controlled with Tylenol. NSAID's were avoided 
due to renal function and colchicine and allopurinol were 
avoided due to allergies. A bacterial culture was sent to 
further rule out bacterial abscess, and culture was still 
pending at time of discharge (prelim negative). She was 
instructed to follow-up with the hand clinic as an outpatient. 

2. Left Toe Paronychia: Patient was seen and paronchia incised 
by Podiatry in the ED. They recommended oral antibiotics for two 
weeks and follow up in clinic. Pain was well controlled with 
Tylenol. ___ evaluated patient and recommended home with ___. 
She will be discharge to complete a 14-day course of Keflex 
(___). 

3. Cough/Asthma: Patient's cough is most consistent with a viral 
URI vs. bronchitis +/- mild asthma exacerbation. She does not 
appear signficantly volume overloaded on exam and is not short 
of breath, but CXR did note mild pulmonary edema. Patient's 
lasix was stopped during prior admission for ___, but Cr has 
improved, so Lasix was restarted. She received standing duonebs 
and cough/wheezing improved. 

4. CKD: Patient has chronic stage 4 CKD. Her recent Cr baseline 
has been in the low 2's. Cr is now 1.9. Given mild pulmonary 
edema on CXR, furosemide was restarted at 40 mg PO daily. 

5. Chronic Diastolic CHF: Last EF > 70% ___. Currently not 
showing evidence of volume overload on exam, but CXR does show 
mild pulmonary edema. Given aparent stability in Cr, furosemide 
was restarted as above. She was continued on valsartan. 

CHRONIC ISSUES

1. Hypertension: Continued home amlodipine, valsartan, and 
metoprolol.  

2. Hypothyroid: Continued levothyroxine.  

3. HLD: Continued atorvastatin.

4. DM II: Patient's diabetes is diet controlled. She was 
monitored with QID fingersticks. 

TRANSITIONAL ISSUES
1. Will need electrolytes and creatinine checked at next 
appointment as lasix is being restarted 
2. Follow-up with Ortho Hand
3. Follow-up with Podiatry
4.  Would likely benefit from increase in home care services

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob, wheeze 
2. Atorvastatin 10 mg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Famotidine 20 mg PO DAILY 
6. Patanol *NF* (olopatadine) 0.1 % ___ BID 
7. Valsartan 160 mg PO DAILY 
8. Levothyroxine Sodium 112 mcg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob, wheeze 
2. Atorvastatin 10 mg PO DAILY 
3. Famotidine 20 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Patanol *NF* (olopatadine) 0.1 % ___ BID 
8. Valsartan 160 mg PO DAILY 
9. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth Every 6 hours 
Disp #*60 Tablet Refills:*0
10. Cephalexin 250 mg PO Q8H 
RX *cephalexin 250 mg 1 capsule(s) by mouth Every 8 hours Disp 
#*35 Capsule Refills:*0
11. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. Ipratropium Bromide MDI 2 PUFF IH Q6H 
RX *ipratropium bromide [Atrovent HFA] 17 mcg/actuation 1 puff 
IH every 6 hours Disp #*1 Inhaler Refills:*0
13. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: 
- Gouty abscess
- Paronychia
- Viral bronchitis

Secondary Diagnoses: 
- Asthma
- Dementia
- Diastolic CHF
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you during your admission to ___ 
___. As you know, you were admitted 
with pain in your thumb and toe. The hand surgeons drained the 
swollen area in your thumb, which was most likely caused by 
gout. The podiatrist treated the infection in your left big toe 
nail, and you should complete a 14-day course of antibiotics. 

You have also had a cough recently, which is most likely from a 
viral illness.  You used nebulizer treatments and your wheezing 
improved. We recommend you take your albuterol and your new 
inhaler, ipratropium, every 6 hours for the next 2 days and then 
as needed until you see Dr. ___. 

During your admission, we restarted your water pill. You were 
evaluated by our physical therapists who recommended that you 
have home physical therapy and occupational therapy.

We made the following changes to your medications: 
- START Keflex (cephalexin) 250 mg three times a day. This is 
the antibiotic to treat your foot infection. You should continue 
taking it until ___. 
- START Lasix (furosemide) 40 mg daily
- START ipratropium 1 puff every 6 hours
- START Tylenol ___ mg every 6 hours as needed for pain
 
Followup Instructions:
___